US08242133B2
A mixture of 7.74 g of 3-methoxymethylpyridine, 60 ml of acetic acid and 7.5 g of 30% hydrogen peroxide solution was stirred while heating at 80° C. for four hours. The reaction mixture was cooled to room temperature, and then sodium carbonate was added in small portions. The reaction mixture was subjected to filtration, and washed with ethyl acetate. The resultant filtrate was washed with a saturated aqueous solution of sodium hydrogensulfite and a saturated sodium chloride solution, and dried over anhydrous sodium carbonate. Activated carbon was added, followed by filtration through Celite™. The filtrate was concentrated under reduced pressure to give 2.66 g of 3-methoxymethylpyridine N-oxide.

reactant | 3-methoxymethylpyridine | 7.74 g | COCC=1C=NC=CC1 | C7H9NO
reactant | hydrogen peroxide | 7.5 g | OO | H2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-methoxymethylpyridine N-oxide | 2.66 g | COCC=1C=[N+](C=CC1)[O-] | C7H9NO2
